US08835428B2
Step 3: (S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid methyl ester
The title compound was prepared from 3-{4-[3-(4-fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carboxylic acid and (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride using the procedure as set forth in Example 5 and was obtained in 84.2% yield. Mass (ES+): 455 (M++1); IR (KBr): 3310, 1742, 1672, 1553 (br), 1506, 1434; 1H NMR (DMSO-d6) δ: 0.92 (2×d, 6H), 2.18 (m, 1H), 3.65 (s, 3H), 4.29 (t, 1H), 7.11 (t, 2H), 7.59 (d, 2H), 7.66 (s, 1H), 7.82 (d, 2H), 8.77 (s, 1H), 8.94 (s, 1H), 9.16 (d, 1H).

reactant | 3-{4-[3-(4-fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carboxylic acid | FC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H12FN3O4
reactant | (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride | Cl.COC([C@H](C(C)C)N)=O
reactant | KBr | [K+].[Br-]
product | (S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid methyl ester | 84.2% yield | COC([C@H](C(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)=O | C23H23FN4O5
